US06436929B1
A mixture of 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (1.5 g, 5.9 mmol), 3-chlorophenyl boronic acid (1.83 g, 11.7 mmol), tetrakis(triphenylphosphine)-palladium (0) (0.35 g, 0.3 mmol), and sodium carbonate (2.48 g, 23.4 mmol) in a mixture of DME and water (40 mL/10 mL) was degassed to remove the oxygen and then heated at 85° C. under a blanket of nitrogen for 3 hours. The reaction mixture was cooled to ambient temperature and quenched with a saturated aqueous ammonium chloride solution (20 mL). Ethyl acetate (50 mL) was added and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with brine and dried with MgSO4. The solvent was removed in vacuo and the residue was purified by silica gel flash chromatography (hexane:ethyl acetate/2:1) to afford 6-(3-chlorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one as a yellowish solid (1.4 g, 82%): mp 158-159° C.; 1H-NMR (DMSO-d6) δ10.31 (s, 1H, D2O exchangeable), 7.75 (s, 1H), 7.61 (m, 3H), 7.46 (t, 1H, J=7.9 Hz), 7.39 (dd, 1H, J=7.0, 1.1 Hz), 6.96 (d, 1H, J=8.6 Hz), 1.68 (s, 6H); Anal. Calc. For C16H14ClNO2.0.1 H2O: C, 66.37; H, 4.94; N, 4.84. Found: C, 66.14; H, 4.61; N, 4.71.

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 5.9 mmol, 1.5 g | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | 3-chlorophenyl boronic acid | 11.7 mmol, 1.83 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 23.4 mmol, 2.48 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.3 mmol, 0.35 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(3-chlorophenyl)-4,4-dimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 1.4 g, 82% | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H14ClNO2
